US08461179B1
A mixture of 1-(4-chloro-5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(3-((4-methylpiperazin-1-yl)methyl)phenyl)urea in MeCN (4 mL) was treated with 0.1N HCl (1.77 mL, 0.177 mmol), frozen and lyophilized to afford 1-(4-chloro-5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(3-((4-methylpiperazin-1-yl)methyl)phenyl)urea dihydrochloride (53 mg, 91% yield). 1H NMR (400 MHz, DMSO-d6): δ 9.46 (s, 1H), 8.89 (s, 1H), 8.42 (s, 1H), 8.14 (d, J=8.6 Hz, 1H), 7.75 (s, 1H), 7.50 (m, 2H), 7.35-7.19 (m, 3H), 6.96 (s, 1H), 6.33 (s, 1H), 4.10 (q, J=7.0 Hz, 2H), 3.66-3.21 (m, 8H), 3.09-2.94 (br s, 2H), 2.86 (s, 3H), 2.68 (s, 3H), 1.16 (t, J=7.0 Hz, 3H); MS (ESI) m/z: 578.3 μM+H+.

reactant | 1-(4-chloro-5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(3-((4-methylpiperazin-1-yl)methyl)phenyl)urea | ClC1=CC(=C(C=C1C=1C(N(C2=CC(=NC=C2C1)NC)CC)=O)NC(=O)NC1=CC(=CC=C1)CN1CCN(CC1)C)F | C30H33ClFN7O2
reactant | HCl | 0.177 mmol, 0.1N, 1.77 mL | Cl | ClH
solvent | MeCN | 4 mL | CC#N | C2H3N
product | 1-(4-chloro-5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(3-((4-methylpiperazin-1-yl)methyl)phenyl)urea dihydrochloride | 53 mg, 91% yield | Cl.Cl.ClC1=CC(=C(C=C1C=1C(N(C2=CC(=NC=C2C1)NC)CC)=O)NC(=O)NC1=CC(=CC=C1)CN1CCN(CC1)C)F | InChI=1S/C30H33ClFN7O2.2ClH/c1-4-39-27-16-28(33-2)34-17-20(27)13-23(29(39)40)22-14-26(25(32)15-24(22)31)36-30(41)35-21-7-5-6-19(12-21)18-38-10-8-37(3)9-11-38;;/h5-7,12-17H,4,8-11,18H2,1-3H3,(H,33,34)(H2,35,36,41);2*1H
